US09447106B2
Compound 58: 7-(But-2-enoyl)-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide
The desired compound was prepared from 2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide and but-2-enoic acid according to the procedure similar to that for compound 54. 1H NMR (400 MHz, DMSO-d6) δ 11.78-11.71 (m, 1H), 7.68 (d, J=8.6 Hz, 2H), 7.46-7.39 (m, 2H), 7.18 (t, J=7.6 Hz, 1H), 7.11-7.04 (m, 4H), 6.73-6.63 (m, 2H), 4.80-4.71 (m, 2H), 3.90 (s, 2H), 2.76-2.70 (m, 2H), 1.88-1.86 (m, 3H). MS (ESI) m/e [M+1]+ 441.9.

reactant | 2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN2C(NC3=C2CNCC3)=C1C(=O)N | C21H19N5O2
reactant | but-2-enoic acid | C(C=CC)(=O)O | C4H6O2
product | 7-(But-2-enoyl)-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide | C(C=CC)(=O)N1CC2=C(CC1)NC=1N2N=C(C1C(=O)N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H23N5O3
